US08217027B2
((1R,3R)-1-amino-3-(4-(3-(thiophen-2-yl)propoxy)phenyl)cyclopentyl)methanol (0.05 g, 0.151 mmol) was dissolved in THF (3.02 ml) under nitrogen. Lithium bis(trimethylsilyl)amide (0.151 ml, 0.151 mmol) (Aldrich) was added and the reaction stirred for 30 min. Tetrabenzyl diphosphate (0.081 g, 0.151 mmol) (Fluka) was added and the reaction stirred for 16 h. The resulting solid was removed by vacuum filtration and washed with THF. The filtrate was concentrated and a mixture of hydrogen bromide in acetic acid (0.030 ml, 0.151 mmol) (Aldrich) and triisopropylsilane (0.031 ml, 0.151 mmol) (Aldrich) were added. The reaction was stirred for about 30 min. at which time LC MS showed reaction complete. The reaction was diluted with ether (15 mL), depositing a residue on the sides of the flask, and stirred until the ether was clear. The ether was decanted and the residue washed with ether. 1 mM ammonium acetate buffer (˜5 mL) was added and the flask sonicated. A light tan precipitate resulted. The resulting solid was collected by vacuum filtration and washed with water and then acetonitrile to provide ((1R,3R)-1-amino-3-(4-(3-(thiophen-2-yl)propoxy)phenyl)cyclopentyl)methyl dihydrogen phosphate (0.024 g, 0.058 mmol, 38.7% yield) as a tan solid on drying: LC/MS (table 1, method A) Rt=2.57 min.; MS m/z: 412.35 (M+H)+. General Procedure P: Hydrolysis of an Ester to the Acid

reactant | ((1R,3R)-1-amino-3-(4-(3-(thiophen-2-yl)propoxy)phenyl)cyclopentyl)methanol | 0.151 mmol, 0.05 g | N[C@]1(C[C@@H](CC1)C1=CC=C(C=C1)OCCCC=1SC=CC1)CO | C19H25NO2S
reactant | Lithium bis(trimethylsilyl)amide | 0.151 mmol, 0.151 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Tetrabenzyl diphosphate | 0.151 mmol, 0.081 g | O(P(OCC1=CC=CC=C1)(=O)OP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C28H28O7P2
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 0.151 mmol, 0.030 ml | C(C)(=O)O | C2H4O2
reactant | triisopropylsilane | 0.151 mmol, 0.031 ml | C(C)(C)[SiH](C(C)C)C(C)C | C9H22Si
solvent | THF | 3.02 ml | C1CCOC1 | C4H8O
solvent | ether | 15 mL | CCOCC | C4H10O
solvent | acetonitrile | C(C)#N | C2H3N
product | ((1R,3R)-1-amino-3-(4-(3-(thiophen-2-yl)propoxy)phenyl)cyclopentyl)methyl dihydrogen phosphate | 0.058 mmol, 0.024 g, 38.7% yield | P(=O)(OC[C@@]1(C[C@@H](CC1)C1=CC=C(C=C1)OCCCC=1SC=CC1)N)(O)O | C19H26NO5PS
